US05428047
15.0 g (83.8 mmol) of 2,3-dichloro-thiophenol are introduced into 50 ml of absolute methanol, 4.5 g (83.8 mmol) of sodium methanolate are added in portions, with cooling, and the mixture is stirred for 15 minutes at room temperature. 6.3 g (83.8 mmol) of chloroacetonitrile are subsequently added dropwise, and the mixture is stirred for 2 hours at room temperature and for a further 5 hours at reflux temperature. The entire batch is then filtered while hot and concentrated in vacuo. 10.8 g (59.1% of theory) of 2,3-dichloro-phenylthioacetonitrile are obtained.

reactant | 2,3-dichloro-thiophenol | 83.8 mmol, 15.0 g | ClC1=C(C=CC=C1Cl)S | C6H4Cl2S
reactant | sodium methanolate | 83.8 mmol, 4.5 g | C[O-].[Na+]
reactant | chloroacetonitrile | 83.8 mmol, 6.3 g | ClCC#N | C2H2ClN
solvent | methanol | 50 ml | CO | CH4O
product | 2,3-dichloro-phenylthioacetonitrile | 10.8 g, 59.1% | ClC(C#N)SC1=CC(=CC=C1)Cl | C8H5Cl2NS
